US08404859B2
Preparation of 5-(3-Hydroxy-benzylcarbamoyl)-3-phenyl-thiophene-2-carboxylic acid
A mixture of 5-[3-(tert-Butyl-dimethyl-silanyloxy)-benzylcarbamoyl]-3-phenyl-thiophene-2-carboxylic acid methyl ester (180 mg, 0.37 mmol), lithium hydroxide monohydrate (310, mg, 7.47 mmol), THF (4 mL) and water (2 mL) was stirred 15 h, acidified with 1N HCl and extracted with EtOAc (×3). The organic extracts were combined, washed with brine, dried over sodium sulfate, filtered and evaporated to give the title compound, 140 mg (100%). MS m/e 354.0 (M+H+).

reactant | 5-[3-(tert-Butyl-dimethyl-silanyloxy)-benzylcarbamoyl]-3-phenyl-thiophene-2-carboxylic acid methyl ester | 0.37 mmol, 180 mg | COC(=O)C=1SC(=CC1C1=CC=CC=C1)C(NCC1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C)=O | C26H31NO4SSi
reactant | lithium hydroxide monohydrate | O.[OH-].[Li+]
reactant | THF | 4 mL | C1CCOC1 | C4H8O
reactant | HCl | 1N | Cl | ClH
solvent | water | 2 mL | O | H2O
product | 5-(3-Hydroxy-benzylcarbamoyl)-3-phenyl-thiophene-2-carboxylic acid | OC=1C=C(CNC(=O)C2=CC(=C(S2)C(=O)O)C2=CC=CC=C2)C=CC1 | C19H15NO4S
